US05236952
3.8 g of 5-(bromoacetyl)-2,3-dihydroxybenzonitrile dissolved in 25 ml of N,N-dimethylformamide are treated with N-phenylthiourea and stirred at 100° for 5 hours. Thereafter, the solvent is removed by evaporation. The residue is treated with 200 ml of 1N sodium carbonate solution and extracted three times with 100 ml of methylene chloride each time. The combined organic phases are washed with water, dried over sodium sulfate and evaporated. The residue is chromatographed on 30 g of silica gel with ethyl acetate. The thus-obtained crude product is treated with 40 ml of 1N hydrochloric acid, evaporated and crystallized from acetone. There is obtained 5-(2-anilino-4-thiazolyl)-2,3-dihydroxybenzonitrile hydrochloride of m.p. 245°-247°.

reactant | 5-(bromoacetyl)-2,3-dihydroxybenzonitrile | 3.8 g | BrCC(=O)C=1C=C(C(=C(C#N)C1)O)O | C9H6BrNO3
reactant | N-phenylthiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-(2-anilino-4-thiazolyl)-2,3-dihydroxybenzonitrile hydrochloride | Cl.N(C1=CC=CC=C1)C=1SC=C(N1)C=1C=C(C(=C(C#N)C1)O)O | InChI=1S/C16H11N3O2S.ClH/c17-8-11-6-10(7-14(20)15(11)21)13-9-22-16(19-13)18-12-4-2-1-3-5-12;/h1-7,9,20-21H,(H,18,19);1H
